US04478749
(A) (3S-trans)-[4-Methyl-2-oxo-3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-azetidinyl]phosphonic acid, diethyl ester
(3S-trans)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-azetidinone (4.6 g) was dissolved in 75 ml of dry tetrahydrofuran and cooled to -78° C. in a dry ice-acetone bath under a nitrogen atmosphere, and was treated with 1.56 M n-butyl lithium (14.8 ml, 1 equivalent). The mixture was stirred for 30 minutes at -78° C. and then diethylphosphorochloridate (3.97 g) was added and stirring continued for 1 hour. The mixture was poured into saturated sodium chloride solution (60 ml) and extracted with ethyl acetate (three 40 ml portions). The extracts were combined and dried over anhydrous Na2SO4 and the solvent removed in vacuo. The residue was chromatographed on 125 g of silica gel eluted with ethyl acetate. Removal of solvent in vacuo followed by trituration with ether and drying yielding 4.72 g of the title compound, melting point 101°-103.5° C.

reactant | (3S-trans)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-azetidinone | 4.6 g | CC(C)(OC(=O)N[C@@H]1C(N[C@H]1C)=O)C | C9H16N2O3
reactant | n-butyl lithium | 1.56 M, 14.8 ml, 1 equivalent | C(CCC)[Li]
reactant | diethylphosphorochloridate | 3.97 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
reactant | sodium chloride | 60 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | (3S-trans)-[4-Methyl-2-oxo-3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-azetidinyl]phosphonic acid, diethyl ester | 4.72 g | C[C@H]1[C@@H](C(N1P(OCC)(OCC)=O)=O)NC(=O)OC(C)(C)C | C13H25N2O6P
